US08791132B2
To a degassed stirred solution of 2,8-dimethyl-5-(5-methyl-pyridin-2-ylethynyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (110 mg, 0.349 mmol) in MeOH (5 mL) was added Pd/C (40 mg, 35% w/w) and purged the reaction mixture with H2 gas at RT for 2 h. The progress of reaction was monitored by TLC and NMR. Reaction mass was filtered through a Celite bed washed with MeOH (3×5 mL). Filtrate was concentrated under reduced pressure and residue was purified by reverse phase HPLC to yield 2,8-dimethyl-5-[2-(5-methyl-pyridin-2-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.42 (s, 1H), 8.02 (d, 1H), 7.48 (d, 1H), 7.21 (s, 1H), 7.12 (d, 1H), 6.98 (d, 1H), 4.67 (d, 1H), 4.5 (t, 2H), 4.3 (d, 1H), 3.8 (m, 1H), 3.5 (m, 1H), 3.38 (t, 2H), 3.1 (m, 5H), 2.41 (s, 3H), 2.39 (s, 3H).

reactant | 2,8-dimethyl-5-(5-methyl-pyridin-2-ylethynyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.349 mmol, 110 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)C#CC2=NC=C(C=C2)C)CC1 | C21H21N3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 2,8-dimethyl-5-[2-(5-methyl-pyridin-2-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC2=NC=C(C=C2)C)CC1 | C21H25N3
